US03996374
A solution of 24 g. of 5-chloro-3-phenylisoindole-1-carboxylic acid ethyl ester in 480 ml. of dimethylformamide is treated under argon at -10° C. with 0.16 mol. of sodium hydride (7.0 g. of a 55% dispersion in mineral oil) and then stirred in an ice-bath for 15 minutes. To this, 62 g. of 1,5-dibromo-3,3-dimethylpentane are added in one batch at -5° C., the mixture is then stirred for 1 hour at room temperature and subsequently heated for 18 hours at 60° C. After cooling, the mixture is poured into 4 liters of ice-water, 200 g. of sodium chloride are added, and the separated product is immediately extracted with methylene chloride. The organic phase, shielded from daylight, is washed with a saturated solution of sodium chloride, dried over sodium sulfate and concentrated to dryness under reduced pressure. The resulting oily residue is chromatographed on 1000 g. of silica gel with methylene chloride as the eluant, care being taken that the eluate is shielded from daylight. The homogeneous fractions are combined, evaporated, and the solid residue recrystallized from ethanol, and there is obtained 2-(5-bromo-3,3-dimethylpentyl)-5-chloro-3-phenylisoindole-1-carboxylic acid ethyl ester having a melting point of 87°-88° C.

reactant | 5-chloro-3-phenylisoindole-1-carboxylic acid ethyl ester | C(C)OC(=O)C=1NC(=C2C=C(C=CC12)Cl)C1=CC=CC=C1 | C17H14ClNO2
reactant | sodium hydride | [H-].[Na+]
reactant | 1,5-dibromo-3,3-dimethylpentane | BrCCC(CCBr)(C)C | C7H14Br2
reactant | sodium chloride | [Cl-].[Na+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 2-(5-bromo-3,3-dimethylpentyl)-5-chloro-3-phenylisoindole-1-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(C(=C2C=C(C=CC12)Cl)C1=CC=CC=C1)CCC(CCBr)(C)C | C24H27BrClNO2
